* PSpice Model Editor - Version 17.2.0
*$
* AMS1117-3.3 Voltage Regulator Model
.subckt AMS1117-3.3 1 2 3
* 1: GND, 2: VO, 3: VI
B1 2_int 1 V = min(V(3,1) - 1.1, 3.3)
R1 2_int 2 0.05
.ends
*$
